US08748415B2
Preparation of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-(dimethylamino)ethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid
A solution of tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-(dimethylamino)ethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (59 mg, 0.088 mmol) in DCM (2 ml) was treated with TFA (0.6 ml, 7.6 mmol) and the mixture was stirred at rt for 12 h. The solvent was removed in vacuo to provide the title compound as a white solid (40 mg, 0.065 mmol, 74.0% yield). LCMS: m/e 615.7 (M+H)+, 2.00 min (method 7). 1H NMR (400 MHz, MeOD) δ ppm 7.94 (d, J=8.3 Hz, 2H), 7.24 (d, J=8.0 Hz, 2H), 5.33 (d, J=4.8 Hz, 1H), 4.78 (s, 1H), 4.67 (s, 1H), 3.73-3.42 (m, 4H), 3.33 (m, 1H), 2.99-2.94 (m, 1H), 2.93 (s, 6H), 2.53 (td, J=10.6, 5.6 Hz, 1H), 2.99-1.29 (m, 2H), 1.98-1.22 (m, 20H), 1.76 (s, 3H), 1.20 (s, 3H), 1.10 (s, 3H), 1.06 (s, 3H), 0.99 (s, 3H), 0.98 (s, 3H).

reactant | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-(dimethylamino)ethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.088 mmol, 59 mg | CN(CCNC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C)C | C45H70N2O2
reactant | TFA | 7.6 mmol, 0.6 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-(dimethylamino)ethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 0.065 mmol, 40 mg, 74.0% yield | CN(CCNC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C)C | C41H62N2O2
